US07291631B2
Ammonia gas was bubbled through a solution of (4-cyano-2-hydroxymethyl-benzyl)-(5,6,7,8-tetrahydro-quinolin-8-yl)-carbamic acid tert-butyl ester (1.39 g, 3.55 mmol) in MeOH (40 mL) for 18 minutes. A prewashed mixture of Raney Nickel (˜1 gram) was added to the nitrile and the mixture was shaken for 16 hours under 30 psi hydrogen. The mixture was filtered through a celite plug and the filtrate was concentrated under reduced pressure. Purification via column chromatography on silica gel (CH2Cl2:MeOH:NH4OH, 94:5:1, v/v/v) afforded (4-aminomethyl-2-hydroxymethyl-benzyl)-(5,6,7,8-tetrahydro-quinolin-8-yl)-carbamic acid tert-butyl ester as an off-white solid (0.77 g, 55%). 1H NMR (CDCl3) δ 1.05 (s, 9H), 1.76 (m, 2H), 2.25 (m, 2H), 2.67 (m, 2H), 3.85 (s, 2H), 3.92 (d, 1H, J=15.0 Hz), 4.27 (m, 1H), 4.37 (d, 1H, J=9.0 Hz), 5.02 (d, 1H, J=12.0 Hz), 5.43 (d, 1H, J=15.0 Hz), 7.00 (m, 1H), 7.19 (m, 2H), 7.22 (m, 1H), 7.45 (m, 1H), 8.14 (d, 1H, J=3.0 Hz).

reactant | Ammonia | N | H3N
reactant | (4-cyano-2-hydroxymethyl-benzyl)-(5,6,7,8-tetrahydro-quinolin-8-yl)-carbamic acid tert-butyl ester | 3.55 mmol, 1.39 g | C(C)(C)(C)OC(N(C1CCCC=2C=CC=NC12)CC1=C(C=C(C=C1)C#N)CO)=O | C23H27N3O3
reactant | hydrogen | [H][H] | H2
solvent | MeOH | 40 mL | CO | CH4O
catalyst | Raney Nickel | ˜1 gram | [Ni] | Ni
product | (4-aminomethyl-2-hydroxymethyl-benzyl)-(5,6,7,8-tetrahydro-quinolin-8-yl)-carbamic acid tert-butyl ester | 0.77 g, 55% | C(C)(C)(C)OC(N(C1CCCC=2C=CC=NC12)CC1=C(C=C(C=C1)CN)CO)=O | C23H31N3O3
